US07105567B2
To a solution of (4-butylphenyl)[(4-dimethylaminophenyl)methyl]amine (0.6 g) in benzene (5 mL) was added 2,6-diisopropylphenyl isocyanate (0.46 mL) and the mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give N-(4-butylphenyl)-N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]urea (0.34 g).

reactant | (4-butylphenyl)[(4-dimethylaminophenyl)methyl]amine | 0.6 g | C(CCC)C1=CC=C(C=C1)NCC1=CC=C(C=C1)N(C)C | C19H26N2
reactant | 2,6-diisopropylphenyl isocyanate | 0.46 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | N-(4-butylphenyl)-N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]urea | 0.34 g | C(CCC)C1=CC=C(C=C1)N(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CC1=CC=C(C=C1)N(C)C | C32H43N3O
